### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal): `MulAction` induced by a `ModObj`

### PR DESCRIPTION
**Pull request by chrisflav**
We define the `MulAction` on hom types induced by a monoid object `M` acting on `X` in a cartesian monoidal category.

---

- [x] depends on: #38342

Given that `Mathlib.CategoryTheory.Monoidal.Cartesian.Mod`, I think the import increase is fine.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean [hunk 1]
```diff
@@ -0,0 +1,198 @@
...
+
+variable [MulActionObj M Y] [MulActionObj M Z] in
+@[to_additive (attr := reassoc (attr := simp))]
+lemma smul_hom_id (f : X ⟶ Y) [IsMulActionHom (𝟙 M) f] :
+    MulActionObj.smul ≫ f = M ◁ f ≫ MulActionObj.smul := by
+  simp [smul_hom (𝟙 M)]
+
+-- Without this, the proof of `IsMulActionHom (𝟙 M) (f ≫ g)` breaks below.
+set_option linter.existingAttributeWarning false in
+attribute [to_additive existing] IsMulActionHom.smul_hom_id_assoc
```
Comment (chrisflav) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: @JovanGerb: What am I doing wrong here? Before L142, `IsAddActionHom.vadd_hom_id_assoc` exists, but `to_additive` does not seem to register as the "dual" of `IsMulActionHom.smul_hom_id_assoc`.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean [hunk 2]
```diff
@@ -0,0 +1,198 @@
...
+/-- A multiplicative action of a monoid object `M` on an object `X`
+in a cartesian monoidal category. -/
+@[to_additive (attr := ext)]
+class MulActionObj (M : C) [MonObj M] (X : C) where
+  /-- The scalar multiplication morphism. -/
+  smul : M ⊗ X ⟶ X
+  /-- Acting by the unit element is the identity. -/
+  one_smul (M X) : η ▷ X ≫ smul = (λ_ X).hom := by cat_disch
+  /-- The action is compatible with multiplication. -/
+  mul_smul (M X) : (μ ▷ X) ≫ smul = (α_ _ _ _).hom ≫ (M ◁ smul) ≫ smul := by cat_disch
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: We already have something more general in `Mathlib/CategoryTheory/Monoidal/Mod_.lean`: this definition seems to be an instance of the notion of `ModObj`, which is the more general case where `C` is just monoidal (not necessarily cartesian monoidal) and acts on the left on a different category `D`. I think the results here that specializes to a cartesian monoidal category acting on itself should use `ModObj` instead. We might need a an additivization of them though.

Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: Oh, thanks! (This is very clearly not an area of mathlib I am familiar with).

As far as I can tell, the only thing from this PR that is not yet in mathlib is the bit about the induced `MulAction` on `Hom` types. Is this correct? Is it in the correct generality (after replacing everything with `ModObj`)?

Comment (robin-carlier) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: Well we still need to `to_additivize` the module objects `AddModObj` and the `IsMod_Hom` (this name should be changed...).
I can see a few things here that we don’t have: I don’t think we have transport of structure along isomorphisms for `ModObj` (this is true in the generality of `ModObj` for sure). Also a slight difference I can see is that for `ModObj` the regular action of `M` on itself is not a global instance (I can’t exactly remember if there is a reason for this...)

The `SMul` on hom-types "as is" requires a cartesian monoidal category acting on itself I would say: you want to use `lift` in the definition, and having both `Y ⟶ M` `Y ⟶ X` well-defined requires everything to be in the same category (but maybe I’m missing some general setup... I’ll think about it, but I think for now it’s probably safe to go with this and to avoid attempting too much generalization of this part.)

Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: Thanks, I will update this PR along these lines.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean (hunk 1 above)
Comment (JovanGerb) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: I recently added an extensible way to support the pattern of `to_additive (attr := simps)` or `to_additive (attr := to_fun)`. But `reassoc` is a bit special since it interacts in a funny way with `to_dual`. I'll try to fix this, but for now using `to_additive existing` is the best you can do.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/MulAction.lean]: I have now updated this PR (hopefully) following your suggestions.

File: Mathlib/CategoryTheory/Monoidal/Mod.lean [hunk 3]
```diff
@@ -66,6 +66,9 @@ class ModObj (X : D) where
 
 attribute [to_additive existing (attr := reassoc (attr := simp))] ModObj.mul_smul ModObj.one_smul
 
+set_option linter.existingAttributeWarning false in
+attribute [to_additive existing] ModObj.one_smul_assoc ModObj.mul_smul_assoc
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Mod.lean]: Changing this and line 67 to
```lean
attribute [to_additive existing (attr := simp, reassoc)] ModObj.mul_smul ModObj.one_smul
attribute [to_additive existing (attr := simp)] ModObj.one_smul_assoc ModObj.mul_smul_assoc
```
achieves what you want to do without the warning, I think

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Monoidal/Mod.lean]: But I don't understand why the previous line doesn't do the same thing as these two lines

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mod.lean [hunk 4]
```diff
@@ -36,4 +45,93 @@ def Mod.trivialAction (M : Mon C) (X : C) : Mod C M.X where
...
+morphisms into `X`. -/
+@[to_additive /-- If `M` is an additive monoid object acting on `X`, then morphisms into `M` act on
+morphisms into `X`. -/]
+instance mulAction (Z : C) : MulAction (Z ⟶ M) (Z ⟶ X) where
+  one_smul x := by
+    rw [one_def, smul_def, ← lift_whiskerRight, Category.assoc]
+    simp
+  mul_smul m n x := by
+    rw [mul_def, smul_def, ← lift_whiskerRight, Category.assoc]
+    simp [smul_def]
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mod.lean]:
```suggestion
  one_smul x := by simp [one_def, smul_def, ← lift_whiskerRight]
  mul_smul m n x := by simp [mul_def, smul_def, ← lift_whiskerRight]
```

File: Mathlib/CategoryTheory/Monoidal/Mod.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Mod.lean]: This is fixed in #38994 (see also https://github.com/leanprover-community/mathlib4/pull/38336#discussion_r3117970397, where I asked Jovan a similar question). With that fix, these two lines can just be removed again and line 67 can stay as is.

I think it is slightly nicer to have the `set_option` version as is for now as a reminder that it should be cleaned up when #38994 lands, but if you prefer your version in the meantime I am happy to change it.

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Monoidal/Mod.lean]: Since the fix is now merged, you should merge master and remove this now

Comment (dagurtomas) [reply Mathlib/CategoryTheory/Monoidal/Mod.lean]: It appears you have already merged master but just forgot to remove these lines (it works)

Comment (dagurtomas) [inline Mathlib/CategoryTheory/Monoidal/Mod.lean]:
```suggestion
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/CategoryTheory/Monoidal/Mod.lean (hunk 3 above)
Comment (chrisflav) [reply Mathlib/CategoryTheory/Monoidal/Mod.lean]: Thanks for the reminder, I had indeed merged master with the intention to remove them and then forgot about it.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
